US04446028
Isopropenyl Phosphonic Acid/Hydroxypropylacrylate/Maleic Anhydride Terpolymer 4:4:1 (molar ratio)
Aqueous isopropenyl phosphonic acid (47 g, 54%, 0.2 mole), hydroxypropylacrylate (26 g, 0.2 mole) and maleic anhydride (5 g, 0.05 mole, neutralized to pH 5 in 50 ml water) were mixed with 82.6 g water in a resin kettle under nitrogen. Ammonium persulfate (6 g) was added followed by 11/2 hours of reflux. An equivalent amount of initiator was added and the reflux period repeated. The final product was yellow with a pH of 0.99. The 31PMR showed polymer absorptions centered at δ=-34, -32.3 and -28.8 ppm.

reactant | isopropenyl phosphonic acid | 0.2 mole, 47 g | C(=C)(C)P(O)(O)=O | C3H7O3P
reactant | hydroxypropylacrylate | 0.2 mole, 26 g | OCCCOC(C=C)=O | C6H10O3
reactant | maleic anhydride | 0.05 mole, 50 ml, 5 g, pH 5 | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | Ammonium persulfate | 6 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 82.6 g | O | H2O
product | Isopropenyl Phosphonic Acid Hydroxypropylacrylate Maleic Anhydride | C(=C)(C)P(O)(O)=O.OCCCOC(C=C)=O.C1(\C=C/C(=O)O1)=O | InChI=1S/C6H10O3.C4H2O3.C3H7O3P/c1-2-6(8)9-5-3-4-7;5-3-1-2-4(6)7-3;1-3(2)7(4,5)6/h2,7H,1,3-5H2;1-2H;1H2,2H3,(H2,4,5,6)
